US04314061
3,6-bis[2-(1-pyrrolyl)ethoxy]acridine trihydrochloride
The compound is prepared from 3,6-bis(2-chloroethoxy)acridine hydrochloride and pyrrole as described in Example 46.

reactant | 3,6-bis(2-chloroethoxy)acridine hydrochloride | Cl.ClCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCl
reactant | pyrrole | N1C=CC=C1 | C4H5N
product | 3,6-bis[2-(1-pyrrolyl)ethoxy]acridine trihydrochloride | Cl.Cl.Cl.N1(C=CC=C1)CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN1C=CC=C1 | InChI=1S/C25H23N3O2.3ClH/c1-2-10-27(9-1)13-15-29-22-7-5-20-17-21-6-8-23(19-25(21)26-24(20)18-22)30-16-14-28-11-3-4-12-28;;;/h1-12,17-19H,13-16H2;3*1H
